US07348344B2
Step 1: Diethyl 2-methyl-1,1-cyclopropanedicarboxylate
To a solution of 50.6 g of trimethylsulphoxonium iodide in 400 cm3 of dimethyl sulphoxide there are added, in one go, 8.84 g of 60% sodium hydride in oil. The reaction mixture is stirred for 2 hours and then a solution of 43.3 g of diethyl ethylidenemalonate in 200 cm3 of dimethyl sulphoxide is added dropwise over a period of 15 minutes. After stirring for 16 h, a mixture of ice and 100 cm3 of 1N hydrochloric acid is added and then the reaction mixture is extracted with ether (3×200 cm3). The combined organic phases are washed with sodium chloride solution and then dried over sodium sulphate and evaporated. Chromatography on silica gel (dichloromethane/cyclohexane: 75/25) allows 37.5 g of expected product to be isolated.

reactant | trimethylsulphoxonium iodide | 50.6 g | [I-].C[S+](=O)(C)C
reactant | sodium hydride | 8.84 g | [H-].[Na+]
reactant | diethyl ethylidenemalonate | 43.3 g | C(C)=C(C(=O)OCC)C(=O)OCC | C9H14O4
reactant | hydrochloric acid | 1N, 100 cm3 | Cl | ClH
solvent | dimethyl sulphoxide | 400 cm3 | CS(=O)C | C2H6OS
solvent | dimethyl sulphoxide | 200 cm3 | CS(=O)C | C2H6OS
product | Diethyl 2-methyl-1,1-cyclopropanedicarboxylate | CC1C(C1)(C(=O)OCC)C(=O)OCC | C10H16O4
